US07691867B2
Benzyl alcohol (4.27 g, 39.5 mmol) was added dropwise to a stirred suspension of sodium hydride (1.6 g of a 60% dispersion in mineral oil, 40.0 mmol) in dimethylformamide (50 ml) at 0° C. The reaction was stirred at 0° C. for 1 hour before addition of 6,7-difluoroquinazolin-4(1H)-one (3.60 g, 19.8 mmol) whereupon the reaction was heated to 60° C. for 2 hours. The reaction was cooled to ambient temperature, poured into water (200 ml) and the resultant solid collected by suction filtration. Drying of the solid in vacuo yielded 7-(benzyloxy)-6-fluoroquinazolin-4(1H)-one (4.45 g, 83% yield) as a pale brown solid:

reactant | Benzyl alcohol | 39.5 mmol, 4.27 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 6,7-difluoroquinazolin-4(1H)-one | 19.8 mmol, 3.60 g | FC=1C=C2C(N=CNC2=CC1F)=O | C8H4F2N2O
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(benzyloxy)-6-fluoroquinazolin-4(1H)-one | 4.45 g, 83% yield | C(C1=CC=CC=C1)OC1=C(C=C2C(N=CNC2=C1)=O)F | C15H11FN2O2
